US06969730B2
4′-hydroxy-3′-iodo[1,1′-biphenyl]-4-carbonitrile
To a solution of 4-hydroxy-4′-cyanobiphenyl (6.00 g, 30.8 mmol), sodium iodide (4.61 g, 30.8 mmol) and sodium hydroxide (1.23 g, 30.8 mmol) in methanol (90 mL) at 0° C. was added an aqueous solution of sodium hypochlorite (47 mL of 5.25% Clorox™, 2.29 g, 30.8 mmol) over 45 minutes. The mixture was stirred cold for 1 hour, warmed to ambient temperature and diluted with sodium thiosulfate solution (10 mL), water (80 mL) and adjusted to a pH of 7 by addition of sodium dihydrogen phosphate. The mixture was extracted with dichloromethane (2×90 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to give a white powder. The solid was crystallized from dichloroethane/hexane and chromatographed on silica with dichloromethane to give the titled compound (5.19 g, 53%). MS (DCI) m/z 339[M+NH4+]+;

reactant | 4-hydroxy-4′-cyanobiphenyl | 30.8 mmol, 6.00 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | sodium iodide | 30.8 mmol, 4.61 g | [I-].[Na+]
reactant | sodium hydroxide | 30.8 mmol, 1.23 g | [OH-].[Na+]
reactant | sodium hypochlorite | 30.8 mmol, 47 mL, 2.29 g | Cl[O-].[Na+]
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | methanol | 90 mL | CO | CH4O
solvent | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 80 mL | O | H2O
product | 4′-hydroxy-3′-iodo[1,1′-biphenyl]-4-carbonitrile | 5.19 g, 53% | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C#N)I | C13H8INO
